US07777047B2
2-(2-{7-[methyl(1,3-thiazol-2-ylsulfonyl)amino]-1H-indol-2-yl}-4,5-dihydro-1,3-thiazol-5-yl)acetamide
A mixture of (2-{7-[methyl(1,3-thiazol-2-ylsulfonyl)amino]-1H-indol-2-yl}-4,5-dihydro-1,3-thiazol-5-yl)acetic acid (250 mg), 1H-1,2,3-benzotriazol-1-ol-ammonia complex (114 mg), N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride (144 mg) and N,N-dimethylformamide (10 mL) was stirred overnight at room temperature. The reaction mixture was diluted with ethyl acetate (100 mL) and water (100 mL), and the organic layer was washed successively with saturated aqueous sodium hydrogencarbonate and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained solid was washed with ethyl acetate to give the title compound (166 mg, yield 67%) as a white solid. melting point 216-218° C.

reactant | (2-{7-[methyl(1,3-thiazol-2-ylsulfonyl)amino]-1H-indol-2-yl}-4,5-dihydro-1,3-thiazol-5-yl)acetic acid | 250 mg | CN(C=1C=CC=C2C=C(NC12)C=1SC(CN1)CC(=O)O)S(=O)(=O)C=1SC=CN1 | C17H16N4O4S3
reactant | N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride | 144 mg | Cl.CN(CCCN=C=NCC)C
reactant | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 100 mL | O | H2O
product | 2-(2-{7-[methyl(1,3-thiazol-2-ylsulfonyl)amino]-1H-indol-2-yl}-4,5-dihydro-1,3-thiazol-5-yl)acetamide | 166 mg, yield 67% | CN(C=1C=CC=C2C=C(NC12)C=1SC(CN1)CC(=O)N)S(=O)(=O)C=1SC=CN1 | C17H17N5O3S3
